US08865736B2
4-[3-(aminocarbonyl)-2,4-difluorophenoxy]-2-butenoic acid
A solution of methyl 4-[3-(aminocarbonyl)-2,4-difluorophenoxy]-2-butenoate (1.25 g, 4.61 mmol, 1 equiv.) and NaOH (0.75 g, 18.44 mmol, 4 equiv.) in isopropanol (10 ml) and H2O (20 ml) was heated under reflux for 1 h. After cooling to r.t., the mixture was acidified with conc. HCl to pH 1. The white precipitant solid was filtered and washed with Et2O (50 ml), to give 568 mg, 48% yield, mp 187-188° C., HPLC-MS (method 1): m/z 258 [M+H]+, Rt=0.98 min. By 1H-NMR analysis it was determined to be a mixture of isomers in a ratio (3:2) E:Z.

reactant | methyl 4-[3-(aminocarbonyl)-2,4-difluorophenoxy]-2-butenoate | 4.61 mmol, 1.25 g, 1 equiv. | NC(=O)C=1C(=C(OCC=CC(=O)OC)C=CC1F)F | C12H11F2NO4
reactant | NaOH | 18.44 mmol, 0.75 g, 4 equiv. | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | H2O | 20 ml | O | H2O
product | 4-[3-(aminocarbonyl)-2,4-difluorophenoxy]-2-butenoic acid | 48% yield | NC(=O)C=1C(=C(OCC=CC(=O)O)C=CC1F)F | C11H9F2NO4
